US05037845
(i) 3-(Cyanomethyl)-N-methyl-1-(phenylmethyl)-1H-indole-5-methanesulphonamide
3-(Cyanomethyl)-N-methyl-1H-indole-5-methanesulphonamide (0.4 g) was dissolved in re-distilled dimethylformamide (10 ml) and treated with sodium hydride (0.132 g, 80% dispersion in oil). After 0.5 h the stirred suspension was cooled to -30° C. and treated with distilled benzyl chloride (0.19 g). The mixture was allowed to warm to 10°, stirred for 1 h and then poured onto ice (10 g). The suspension was filtered, and the solid collected and washed with water (20 ml) and cyclohexane (30 ml). The solid was purified by chromatography (M) and the appropriate fractions were combined and concentrated in vacuo to 20 ml, whereupon a solid crystallised out which was collected and dried to give the title compound (0.12 g), m.p. 133°-135°. T.l.c. (M), Rf 0.4, (KMnO4)

reactant | 3-(Cyanomethyl)-N-methyl-1H-indole-5-methanesulphonamide | 0.4 g | C(#N)CC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C12H13N3O2S
reactant | sodium hydride | 0.132 g | [H-].[Na+]
reactant | benzyl chloride | 0.19 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(Cyanomethyl)-N-methyl-1-(phenylmethyl)-1H-indole-5-methanesulphonamide | 0.12 g | C(#N)CC1=CN(C2=CC=C(C=C12)CS(=O)(=O)NC)CC1=CC=CC=C1 | C19H19N3O2S
